### PR TITLE
Erdős Problem 942

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

File: FormalConjectures/ForMathlib/Data/Nat/Full.lean [hunk 1]
```diff
@@ -31,6 +31,10 @@ Powerful numbers are also known as "squareful", "square-full", or "$2$-full".
 -/
 abbrev Powerful : ℕ → Prop := (2).Full
 
+instance Nat.Powerful.decide : ∀ n, Decidable (Powerful n) := by
+  intro n
+  dsimp [Powerful, Full]
+  apply Finset.decidableDforallFinset
```
Comment (Paul-Lez) [inline FormalConjectures/ForMathlib/Data/Nat/Full.lean:37]: Does this work?
```suggestion
instance Nat.Powerful.decide (n : ℕ) : Decidable (Powerful n) := by
  dsimp [Powerful, Full]
  apply Finset.decidableDforallFinset
```

File: FormalConjectures/ErdosProblems/942.lean [hunk 2]
```diff
@@ -0,0 +1,58 @@
...
+def erdos_942.h (n : ℕ) : ℕ := ((Finset.Ico (n ^ 2) ((n + 1) ^ 2)).filter Powerful).card
+
+/--
+Is there some constant $c > 0$ such that $h(n) < (\log n)^{c + o(1)}$ and, for infinitely many $n$,
+$h(n) > (\log n)^{c - o(1)}$.
+-/
+@[category research open, AMS 11]
+theorem erdos_942 : (∃ c > 0, ∃ (o : ℕ → ℝ), o =o[atTop] (1 : ℕ → ℝ) ∧
+    ∀ n, erdos_942.h n < (Real.log n) ^ (c + o n) ∧
+    {n | erdos_942.h n > (Real.log n) ^ (c - o n)}.Infinite) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/942.lean]: I think you're missing the `answer(sorry)` here?

File: FormalConjectures/ForMathlib/Data/Nat/Full.lean (hunk 1 above)
Comment (mo271) [reply FormalConjectures/ForMathlib/Data/Nat/Full.lean:37]: no

File: FormalConjectures/ErdosProblems/942.lean (hunk 2 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/942.lean]: right, thanks, added.

File: FormalConjectures/ErdosProblems/942.lean [hunk 3]
```diff
@@ -0,0 +1,59 @@
...
+-/
+@[category graduate, AMS 11]
+theorem erdos_942.variants.limsup :
+    atTop.limsup (((fun (n : ℕ) ↦ (n : ℕ∞)) ∘ erdos_942.h)) = ⊤ := by
+  sorry
+
+
+/--
+It is not hard to prove that the density $δ_l$ of integers for which $h(n) = l$ exists
+-/
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/942.lean]:
```suggestion
It is not hard to prove that the density $δ_l$ of integers for which $h(n) = l$ exists
and satisfies $$\sum_l δ_l = 1$$.
-/
```

**Review by Paul-Lez — APPROVED** [review]
